US04301152
2,3,4-Tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranose
Chloroform (9.0 ml.) is added to a solution of 2-S-(2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-β-D-galactopyranosyl)-2-thiopseudourea (3.4 g.) in water (10 ml.) containing potassium metabisulfite (1.38 g.). The mixture is heated with stirring under reflux for 15 minutes. The cooled solution is separated, and the organic layer is dried and evaporated in vacuo to give the title compound (2.5 g.). This material is used directly for the preparation of 6-(5-cholesten-3β-yloxy)hexyl 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranoside.

reactant | Chloroform | 9.0 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 2-S-(2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-β-D-galactopyranosyl)-2-thiopseudourea | 3.4 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O)SC(N)=N | C21H23N3O9S
reactant | potassium metabisulfite | 1.38 g | S(=O)(=O)([O-])S(=O)[O-].[K+].[K+]
solvent | water | 10 ml | O | H2O
product | 2,3,4-Tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranose | 2.5 g | C(C)(=O)O[C@H]1[C@H](S)O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C20H21NO9S
